US09381503B2
Preparation of Bis(pyridin-2-yl)phosphine (Py2PH)
The tris(pyridin-2-yl)phosphine (22.4 g, 85 mmol) was suspended in THF (400 ml). To this were added lithium granules (5.0 g, 720 mmol). The mixture was then stirred at room temperature for four hours. This gave an intense red solution. The solution was then filtered into a clean Schlenk flask to remove any un-reacted lithium metal. The solvent was then removed under vacuum and water (100 ml, degassed with nitrogen gas for 20 minutes) added. Ether (400 ml) was then added and the biphasic solution stirred for 20 minutes. The upper (organic) phase was then cannula transferred into a clean Schlenk flask and then dried under vacuum. This gave dark orange/red oil. Yield=15.1 g, 94% 31P{1H}NMR (121 MHz, CDCl3) ä; −33.8 (s, PPy2).

reactant | tris(pyridin-2-yl)phosphine | 85 mmol, 22.4 g | N1=C(C=CC=C1)P(C1=NC=CC=C1)C1=NC=CC=C1 | C15H12N3P
reactant | lithium | [Li] | Li
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Bis(pyridin-2-yl)phosphine | N1=C(C=CC=C1)PC1=NC=CC=C1 | C10H9N2P
